US08097628B2
A mixture of (5,6-dichloro-3-pyridinyl)methanol (2000 mg, 11.23 mmol), Et3N (2.349 ml, 16.85 mmol), and tert-butyldimethylsilyl chloride (1778 mg, 11.80 mmol) in DMF (20 ml) was stirred at room temperature for 4 h. HPLC analyse showed starting material remaining, an excess of tert-butyldimethylsilyl chloride (847 mg, 5.62 mmol) and Et3N (1.174 ml, 8.43 mmol) were added. The mixture reaction was stirred overnight. The crude was diluted with TBME (175 mL) and water. The organic phase was washed with solution sat. NaCl. Combined organics were washed with sat NH4Cl and dried over Na2SO4, filtered, and concentrated under reduced pressure. Purification by flash chromatography using Flashmaster II, a 50 g silica gel cartridge, and mixtures of hexane and EtOAc as eluent afforded 2,3-Dichloro-5-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)pyridine 2.5 g (72%) of a yellow oil.

reactant | (5,6-dichloro-3-pyridinyl)methanol | 11.23 mmol, 2000 mg | ClC=1C=C(C=NC1Cl)CO | C6H5Cl2NO
reactant | Et3N | 16.85 mmol, 2.349 ml | CCN(CC)CC | C6H15N
reactant | tert-butyldimethylsilyl chloride | 11.80 mmol, 1778 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | tert-butyldimethylsilyl chloride | 5.62 mmol, 847 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | Et3N | 8.43 mmol, 1.174 ml | CCN(CC)CC | C6H15N
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | TBME | 175 mL | CC(C)(C)OC | C5H12O
solvent | water | O | H2O
product | 2,3-Dichloro-5-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)pyridine | 2.5 g, 72% | ClC1=NC=C(C=C1Cl)CO[Si](C)(C)C(C)(C)C | C12H19Cl2NOSi
